US05217961
Fuming nitric acid (d=1.42) was added dropwise to 6-chloroindolo[3,2-b]quinoline 2.52 g (0.01 mol) at 0° C. The resulting mixture was left overnight at room temperature and then poured into ice water. Deposited crystals were collected by filteration, washed with an aqueous solution saturated with KHCO3 and recrystallized from tetrahydrofuran and CH2Cl2 to obtain 6-chloro-2nitroindolo[3,2-b]quinoline (melting point: 280° to 290° C. (decomp.)) 2.50 g (yield: 84%).

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 6-chloroindolo[3,2-b]quinoline | 0.01 mol, 2.52 g | ClC=1C=2C(C=CC1)=NC=1C2NC2=CC=CC=C2C1 | C15H9ClN2
product | 6-chloro-2nitroindolo[3,2-b]quinoline | 2.50 g, yield: 84% | ClC=1C=2C(C=CC1)=NC=1C2NC2=CC=C(C=C2C1)[N+](=O)[O-] | C15H8ClN3O2
